US08183380B2
N′-{2-[(1R)-2,3-dihydro-1H-inden-1-ylamino]quinolin-6-yl}-N,N-dimethylsulfamide
(R)—N2-Indan-1-yl-quinoline-2,6-diamine (0.05 g, 0.18 mmol) was dissolved in pyridine (1 mL). Dimethylsulfamoyl chloride (0.02 mL) was added and stirred for 72 h at ambient temperature. Then water was added and the mixture extracted with ethyl acetate. The combined organic phases were dried over sodium sulfate, filtered and evaporated. The residue was subjected to column chromatography (silica gel, heptane, ethyl acetate 4:1/1:1) to yield the title compound as a brown oil (30 mg, 43%); MS: m/e=383.6 (M+H+).

reactant | (R)—N2-Indan-1-yl-quinoline-2,6-diamine | 0.18 mmol, 0.05 g | [C@H]1(CCC2=CC=CC=C12)NC1=NC2=CC=C(C=C2C=C1)N | C18H17N3
reactant | Dimethylsulfamoyl chloride | 0.02 mL | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
reactant | water | O | H2O
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
product | N′-{2-[(1R)-2,3-dihydro-1H-inden-1-ylamino]quinolin-6-yl}-N,N-dimethylsulfamide | 30 mg, 43% | [C@H]1(CCC2=CC=CC=C12)NC1=NC2=CC=C(C=C2C=C1)NS(=O)(=O)N(C)C | C20H22N4O2S
